### PR TITLE
[TSOCounter] Generalize counter to critical sections

### PR DESCRIPTION
**Pull request by stellamplau**
Generalizes CounterAPI's Inc and Dec operations to arbitrary "programs" (critical sections) composed of reads, writes, and returns surrounded by acquire and release.

We prove that critical sections follow the mover pattern, follow the lock protocol, and are compiled correctly.

This PR is primarily for code review purposes; all nits/style comments/etc are very welcome and appreciated.

### CODE REVIEW

File: src/Examples/LockedCounter.v [hunk 1]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+           any ?tid s1 /\
+           exec_any LockAPI.step ?tid s1 (Call Acquire) true s2 /\
+           exec_others LockAPI.step ?tid s2 ?s] =>
+      let cand_s1 :=
+        match s0 with
+         | Valid {| SeqMemState.Value := ?n;
+                    SeqMemState.LockOwner := Some tid |} =>
+           constr:(Valid (SeqMemState.mkSMState n None))
+         | Error => constr:(@Error SeqMemState.s)
+        end in solve [exists cand_s1, s0; intuition; econstructor 2; eauto]
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: This looks a little cryptic - can you factor it out into a lemma that proves `p_acquire` and then leave `p_acquire` folded?

File: src/Examples/LockedCounter.v [hunk 2]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+  Lemma right_movers_read_after_acquire :
+      forall T (p: nat -> proc LockOp.Op T) (r: bool),
+      (forall (n: nat), right_movers LockAPI.step (p_acquire r) (p n)) ->
+      right_movers LockAPI.step (p_acquire r) (x <- Call Read; p x).
+  Proof.
+    constructor; auto.
+    intro n; specialize (H n).
+    unfold p_acquire in *. cleanup.
+    eapply right_movers_impl; eauto. propositional.
+    exec_any_invert H1. all: repeat movers_helper.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: If it's straightforward I would prefer to add `; repeat movers_helper` to earlier sentences rather than ending with `all: repeat movers_helper`, especially because `movers_helper` looks safe to call at any time.

File: src/Examples/LockedCounter.v [hunk 3]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+    intros. remember Error as t1 in H. induction H.
+    - assumption.
+    - repeat deex. destruct IHclos_refl_trans_1n; auto.
+      invert H1. invert H3. eauto.
+  Qed.
+
+  Hint Resolve exec_error_is_error.
+
+  Ltac movers_helper :=
+    match goal with
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: You can just put a `repeat` here since it looks like this tactic can't infinite loop and is safe to run many times since it just saturates and solves.

File: src/Examples/LockedCounter.v [hunk 4]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+
+  Lemma exec_prog_after_acquire_is_valid:
+    forall T (p: flatProg T) tid v0 (ret: T) s evs,
+    atomic_exec LockAPI.step (flat_prog_core p) tid
+                (Valid (SeqMemState.mkSMState v0 (Some tid))) ret s evs ->
+    exists v1, s = Valid (SeqMemState.mkSMState v1 None) /\ evs = [].
   Proof.
-    unfold compile_correct; intros.
-    destruct op.
+    do 3 intro. induction p; intros; simpl; eauto.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: I don't think the `do 3 intro` does anything here

File: src/Examples/LockedCounter.v [hunk 5]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
-      cleanup.
-      repeat step_inv; simpl; eauto.
+  Lemma exec_prog_after_acquire_is_step :
+    forall T (p: flatProg T) (tid: nat) (v0 v1: nat) (ret: T) evs,
+    atomic_exec LockAPI.step (flat_prog_core p) tid
+                (Valid (SeqMemState.mkSMState v0 (Some tid))) ret
+                (Valid (SeqMemState.mkSMState v1 None)) evs ->
+    CriticalSectionOp.progStep p v0 = (v1, ret) /\ evs = [].
+  Proof.
+    intro; intro. induction p; intros; simpl; eauto.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: also don't need `intro`s here, `induction p` will just work and have the same induction hypothesis

File: src/Examples/LockedCounter.v [hunk 6]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+        s = Error /\ evs = [].
+  Proof.
+    intro; intro. induction p; intros; simpl; eauto.
+    all: repeat atomic_exec_inv_safe; cleanup; repeat step_inv; eauto.
+  Qed.
 
+  Lemma step_is_function: forall T (p : flatProg T) (s0: nat),
+      exists (s1: nat) (v: T), CriticalSectionOp.progStep p s0 = (s1,v).
+  Proof.
+    induction p; simpl; eauto.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: This is just to destruct `progStep`'s tuple, right? You could just do `destruct_with_eqn (CriticalSectionOp.progStep p s0)` given the way this is used below.

File: src/Examples/LockedCounter.v [hunk 7]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+    destruct op; simpl.
+    - repeat atomic_exec_inv_safe. cleanup.
+      remember (flatten_prog p) as flatProg.
+      induction flatProg; simpl.
+      all: repeat atomic_exec_inv_safe; cleanup; repeat step_inv.
+      all: pose proof (step_is_function (flatten_prog p) 0); repeat deex.
+      all: try match goal with
+           | [ H : atomic_exec _ (flat_prog_core ?p) _ (Valid _) _ ?s _ |- _ ] =>
+             pose proof (exec_prog_after_acquire_is_valid p H);
+               repeat deex; destruct_ands; subst;
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: These simplifications should all be handled by `propositional` (and the same in the other case)

File: src/Examples/LockedCounter.v [hunk 8]
```diff
@@ -2006,42 +2059,182 @@ Module LockingCounter' <:
...
+             pose proof (exec_prog_after_acquire_is_step p H)
+           | [ H : atomic_exec _ (flat_prog_core ?p) _ Error _ ?s _ |- _ ] =>
+             pose proof (exec_after_error_is_error p H)
+               end; repeat deex; destruct_ands; subst.
+      all: econstructor; econstructor; rewrite <- HeqflatProg in *; eauto.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v:2227]: Here especially if you can figure out a way to use fewer `all: ` selectors it could make the proof more robust

File: src/Examples/LockedCounter.v [hunk 9]
```diff
@@ -2120,24 +2313,40 @@ Module LockingCounter' <:
...
-    repeat constructor.
-    - repeat exec_propagate; eauto.
-    - repeat exec_propagate; eauto.
-    - repeat exec_propagate; eauto.
-  Qed.
+  Ltac critical_section_helper :=
+    match goal with
+    | [H: forall n p, ?p0 n = flatten_prog p -> _
+       |- follows_protocol_proc _ _ _ _ (flat_prog_core (?p0 ?x))] =>
+        specialize (H x (deflatten_prog (p0 x)) (flatProg_invert (p0 x)))
```
Comment (tchajed) [inline src/Examples/LockedCounter.v]: I would actually prefer `ltac:(auto)` instead of `flatProg_invert (p0 x))` (as long as `flatProg_invert` is a hint), but I like that you explicitly specified the other arguments.

File: src/Examples/LockedCounter.v [hunk 10]
```diff
@@ -2216,44 +2422,55 @@ Module CounterAPI <: Layer CounterOp CounterState.
...
+  Definition absR (s1 : State) (s2 : LockFreeState.State) :=
     exists s, s1 = Valid s /\
          s.(LockOwner) = None /\
          s.(Value) = s2.
 
+  Definition inc :=
+    CriticalSection (
+        ProgBind ProgRead (fun v => ProgBind (ProgWrite (v + 1))
+                                             (fun _ => ProgRet v))).
+
```
Comment (tchajed) [inline src/Examples/LockedCounter.v:2442]: This is awesome! It's so much cleaner than the code before.

File: src/Examples/LockedCounter.v [hunk 11]
```diff
@@ -1828,44 +1831,94 @@ Module LockAPI <: Layer LockOp SeqMemState.
...
+  Definition flatten_prog T (p: prog T) : flatProg T :=
+    flat_bind_prog p (fun v => (DoRet v)).
+
+  Fixpoint deflatten_prog T (p : flatProg T) : prog T :=
+    match p with
+    | DoRet v => ProgRet v
+    | DoRead p    => ProgBind ProgRead (fun v => deflatten_prog (p v))
+    | DoWrite n p => ProgBind (ProgWrite n) (fun v => deflatten_prog (p v))
+    end.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v:1869]: This is cool! It nicely gives the user general syntax but lets you convert to a nice canonical representation for the sake of all the proofs in this file.

File: src/Examples/LockedCounter.v [hunk 12]
```diff
@@ -2,6 +2,9 @@ Require Import CSPEC.
 Require Import Helpers.Learn.
 Require Import TSO.
 
+Require Import Coq.Program.Tactics.
```
Comment (tchajed) [inline src/Examples/LockedCounter.v:5]: I didn't know about `Coq.Program.Tactics`, thanks for teaching me something!

**Review by tchajed — COMMENTED** [review]
This looks really good! It's awesome that you figured out all the random idiosyncrasies needed to push this all the way through.

I gave some style feedback which is probably pickier than necessary. If any of the changes turn out to affect proofs adversely feel free to ignore them - I don't care about understandable proofs, only the vague goal of writing maintainable proofs.

Could you also change the merge base to master instead of a new branch?

File: src/Examples/LockedCounter.v (hunk 8 above)
Comment (stellamplau) [reply src/Examples/LockedCounter.v:2227]: The proof is essentially adding relevant hypotheses and then doing a (mostly automated) case bash. Maybe it could be rewritten in a different style, though it's not obvious to me how to do so...

**Comment by stellamplau** [comment]
Thanks for the helpful comments and Coq tips (especially helpful as a first-time Coq user)! I've updated the merge base to master.

File: src/Examples/LockedCounter.v (hunk 8 above)
Comment (tchajed) [reply src/Examples/LockedCounter.v:2227]: I played around with it and figured out a simplification by factoring out some lemmas - it looks like there's a bunch of complexity coming from dealing with the error case, while the non-error case is basically handled by `exec_prog_after_acquire_is_{valid,step}`. The proofs are fairly similar, but factored out into smaller contexts. I can just make the changes after merging.

Comment (stellamplau) [reply src/Examples/LockedCounter.v:2227]: Nice, thanks for that.
